US05607898
1 ml of acetic acid was added to 1.22 g (4.22 mmol) of 6-acetyl-5,8-dichloro-4,4-dimethylthiochroman, 1.43 g (12.66mmol) of a 30% hydrogen peroxide aqueous solution was further added, and the mixture was heated at 80° C. for 2 hours. To the reaction mixture was added 10 ml of a 2% sodium hydrogensulfite, and a precipitated solid was recovered by filtration to give 0.96 g (yield 71%) of 6-acetyl-5,8-dichloro-4,4-dimethylthiochroman-1,1-dioxide.

reactant | 6-acetyl-5,8-dichloro-4,4-dimethylthiochroman | 4.22 mmol, 1.22 g | C(C)(=O)C=1C(=C2C(CCSC2=C(C1)Cl)(C)C)Cl | C13H14Cl2OS
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 6-acetyl-5,8-dichloro-4,4-dimethylthiochroman-1,1-dioxide | 0.96 g, yield 71% | C(C)(=O)C=1C(=C2C(CCS(C2=C(C1)Cl)(=O)=O)(C)C)Cl | C13H14Cl2O3S
